US05135944
(R)-1-trifluoroacetylproline
(R)-proline (20 g, 0.174 mol) was placed in a 500 mL round-bottom flask. To this was added 100 mL THF and ethyl trifluoroacetate (50 g, 0.34 mol). The solution was purged with argon and 1,1,3,3-tetramethylguanidine (30 g, 0.261 mol) was added dropwise. The solution was allowed to stir until all the (R)-proline had dissolved (approximately 35 minutes). The solvent was removed in vacuo and the residue dissolved in CH2Cl2 (200 mL). The solution was washed with 6N HCl (aqueous, 2×100 mL). The organic layer was separated and dried with Na2SO4, filtered and the solvent removed in vacuo to give as an oil which crystallized upon standing; yield 29 g (79%), m.p. 48°-51° C.

reactant | (R)-proline | 0.174 mol, 20 g | N1[C@@H](C(=O)O)CCC1 | C5H9NO2
reactant | ethyl trifluoroacetate | 0.34 mol, 50 g | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | 1,1,3,3-tetramethylguanidine | 0.261 mol, 30 g | CN(C(=N)N(C)C)C | C5H13N3
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (R)-1-trifluoroacetylproline | FC(C(=O)N1[C@@H](C(=O)O)CCC1)(F)F | C7H8F3NO3
